US07157476B2
N-(4-(5-amino-1,3,4-thiadiazol-2-yl)-1,2,5-oxadiazol-3-yl)-2,2,2-trifluoroacetamide:
To a suspension of N-(4-cyano-1,2,5-oxadiazol-3-yl)-2,2,2-trifluoroacetamide (0.10 g, 0.49 mmol) in 2 mL of TFA was added thiosemicarbazide (0.044 g, 0.49 mmol). The reaction mixture was poured into ice and neutralized with sat. NaHCO3 to pH=7. The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layer was washed with NaCl and concentrated. Trituration with diethyl ether afforded the title compound as a beige solid (0.070 g, 51%). 1H NMR (DMSO, 500 MHz) δ 7.93 (s, 2H), 6.55 (s, 1H). Mass Spec. FIA MS 281.1(M+1).

reactant | N-(4-cyano-1,2,5-oxadiazol-3-yl)-2,2,2-trifluoroacetamide | 0.49 mmol, 0.10 g | C(#N)C=1C(=NON1)NC(C(F)(F)F)=O | C5HF3N4O2
reactant | thiosemicarbazide | 0.49 mmol, 0.044 g | NNC(=S)N | CH5N3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(4-(5-amino-1,3,4-thiadiazol-2-yl)-1,2,5-oxadiazol-3-yl)-2,2,2-trifluoroacetamide | 0.070 g, 51% | NC1=NN=C(S1)C=1C(=NON1)NC(C(F)(F)F)=O | C6H3F3N6O2S
